US06872720B2
To toluene-4-sulfonic acid 3-cyclopentyl-7-(2-fluorophenyl)-4-methylpyrazolo[1,5-d][1,2,4]triazin-2-yl ester (230 mg, 0.494 mmol) and (2-ethyl-2H-[1,2,4]triazol-3-yl)methanol (75.6 mg, 1.2 molar eq; prepared as described in EP-A-170073) in DMF (10 ml) was added sodium hydride (22 mg of a 60% dispersion in mineral oil; 1.2 molar eq) and the mixture was stirred at room temperature for 1 h. Water (90 ml) was added then the solution was extracted with diethyl ether (4×50 ml). The combined ether layers were washed with brine (1×100 ml), dried (Na2SO4), the solvent was removed in vacuo and the residue was purified by flash chromatography on silica gel eluting with 0 to 50% ethyl acetate in dichloromethane. 3-Cyclopentyl-2-(2-ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-7-(2-fluorophenyl)-4-methylpyrazolo[1,5-d][1,2,4]triazine was isolated as a gum, which solidified upon trituration under diethyl ether/isohexane (34.5 mg, mp =105° C.). 1H NMR (360 MHz, CDCl3) δ 1.36 (3H, t, J=7.3 Hz), 1.53-1.91 (8H, m), 2.87 (3H, s), 3.41 (1H, m), 4.10 (2H, q, J=7.3 Hz), 5.45 (2H, s), 7.23-7.36 (2H, m), 7.58-7.75 (2H, m), 7.88 (1H, s); MS (ES+) m/e 422 [MH]+. Anal. Found C, 62.56; H, 5.67; N, 23.18%. C22H24FN7O requires C, 62.69; H, 5.74; N, 23.26%.

reactant | toluene-4-sulfonic acid 3-cyclopentyl-7-(2-fluorophenyl)-4-methylpyrazolo[1,5-d][1,2,4]triazin-2-yl ester | 0.494 mmol, 230 mg | C1(CCCC1)C=1C(=NN2C(=NN=C(C21)C)C2=C(C=CC=C2)F)OS(=O)(=O)C2=CC=C(C=C2)C | C24H23FN4O3S
reactant | (2-ethyl-2H-[1,2,4]triazol-3-yl)methanol | 1.2 molar, 75.6 mg | C(C)N1N=CN=C1CO | C5H9N3O
reactant | sodium hydride | [H-].[Na+]
reactant | Water | 90 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-Cyclopentyl-2-(2-ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-7-(2-fluorophenyl)-4-methylpyrazolo[1,5-d][1,2,4]triazine | C1(CCCC1)C=1C(=NN2C(=NN=C(C21)C)C2=C(C=CC=C2)F)OCC=2N(N=CN2)CC | C22H24FN7O
